US08476286B2
Acetic acid 2-[4-(4-isopropyl-phenyl)-2-oxo-6-prop-2-ynyloxy-2H-quinazolin-1-yl]-1-phenyl-ethyl ester
A solution of 100 mg (0.228 mmol) 1-(2-hydroxy-2-phenyl-ethyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one in 1 ml acetic anhydride is heated at 100° C. for 18 h. The reaction mixture is poured onto 1 M aqueous NaOH and extracted with ether. The product is purified by preparative reversed phase HPLC.

reactant | 1-(2-hydroxy-2-phenyl-ethyl)-4-(4-isopropyl-phenyl)-6-prop-2-ynyloxy-1H-quinazolin-2-one | 0.228 mmol, 100 mg | OC(CN1C(N=C(C2=CC(=CC=C12)OCC#C)C1=CC=C(C=C1)C(C)C)=O)C1=CC=CC=C1 | C28H26N2O3
reactant | NaOH | 1 M | [OH-].[Na+]
reactant | acetic anhydride | 1 ml | C(C)(=O)OC(C)=O | C4H6O3
product | Acetic acid 2-[4-(4-isopropyl-phenyl)-2-oxo-6-prop-2-ynyloxy-2H-quinazolin-1-yl]-1-phenyl-ethyl ester | C(C)(C)C1=CC=C(C=C1)C1=NC(N(C2=CC=C(C=C12)OCC#C)CC(C1=CC=CC=C1)OC(C)=O)=O | C30H28N2O4
